US04141899
5-(N-ethyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1293)
A solution of 1.85 g of 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 2 g of ethyl isothiocyanate in 15 ml of acetonitrile are refluxed for 7 h. The solution is cooled and filtered: 2.5 g of 5-[N-ethyl-thiocarbamoyl]-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine, m.p. 185°, are collected.

reactant | 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 1.85 g | N1C=NC=2CNCCC21 | C6H9N3
reactant | ethyl isothiocyanate | 2 g | C(C)N=C=S | C3H5NS
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-(N-ethyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C(C)NC(=S)N1CC2=C(CC1)NC=N2 | C9H14N4S
